US09302991B2
<Step-1>: methyl 2-(2-acetoxy-2-methylpropanamido)-6-methylisonicotinate
The title compound is prepared in 80% yield (0.89 g, a yellow solid) from methyl 2-chloro-6-methylisonicotinate (0.70 g, 3.8 mmol) and 1-amino-2-methyl-1-oxopropan-2-yl acetate by the similar manner in Step-1 of Carboxylic acid-4.

reactant | methyl 2-chloro-6-methylisonicotinate | 3.8 mmol, 0.70 g | ClC=1C=C(C(=O)OC)C=C(N1)C | C8H8ClNO2
reactant | 1-amino-2-methyl-1-oxopropan-2-yl acetate | C(C)(=O)OC(C(=O)N)(C)C | C6H11NO3
product | methyl 2-(2-acetoxy-2-methylpropanamido)-6-methylisonicotinate | 80% yield | C(C)(=O)OC(C(=O)NC=1C=C(C(=O)OC)C=C(N1)C)(C)C | C14H18N2O5
